US08703758B2
J) 2-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)-1-methylethyl methanesulfonate
A suspension of 1-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)propan-2-ol (555 mg), triethylamine (0.34 mL) and methanesulfonyl chloride (0.19 mL) in THF (5 mL) was stirred at room temperature for 1 hr and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (624 mg).

reactant | 1-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)propan-2-ol | 555 mg | C1(CC1)COC1=CC2=C(C=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)O)C=C1 | C21H28O4
reactant | triethylamine | 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.19 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)-1-methylethyl methanesulfonate | 624 mg | CS(=O)(=O)OC(CO[C@@H]1CC[C@H](CC1)C=1OC2=C(C1)C=CC(=C2)OCC2CC2)C | C22H30O6S
